US09023760B2
Step 3: Preparation of 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (title compound P2.2)
To a solution of 4-benzyloxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (22.6 g, 53.7 mmol) in methanol (226 ml) and water (22.6 ml) in a Parr shaker type hydrogenator was added 5% Pd/C (22.6 g). After hydrogenation under 4 bars H2 at 36° C. for 22 hours, the reaction mixture was filtered and concentrated. The residue was diluted with ethyl acetate and extracted with saturated aqueous sodium carbonate under ice cooling. The organic layer was discarded, the aqueous alkaline phase acidified with cooling to pH 5-6 with an aqueous HCl solution and thoroughly extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated. Yield: 13.0 g of 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (title compound P2.2) as a solid, mp 239-241° C.

reactant | 4-benzyloxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one | 53.7 mmol, 22.6 g | C(C1=CC=CC=C1)OC1=C(C(N(C12CCN(CC2)OC)C)=O)C2=C(C=C(C=C2C)C)C | C26H32N2O3
solvent | methanol | 226 ml | CO | CH4O
solvent | water | 22.6 ml | O | H2O
catalyst | Pd/C | 22.6 g | [Pd] | Pd
product | 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one | OC1=C(C(N(C12CCN(CC2)OC)C)=O)C2=C(C=C(C=C2C)C)C | C19H26N2O3
